US07932282B2
A mixture of 3-methyl-1-(3-methyl-2-pyridinyl)-2-oxo-4-imidazolidinecarboxylic acid TFA salt (279 mg, 0.8 mmol), 1-hydroxybenzotriazole hydrate (147 mg, 0.96 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (184 mg, 0.96 mmol) and N-ethyl morpholine (0.613 ml, 4.8 mmol) in dichloromethane (20 ml) was stirred at room temperature for 10 minutes. [(2-Chloro-3,4-difluorophenyl)methyl]amine hydrochloride (171 mg, 0.8 mmol) was added and the reaction stirred at room temperature for 18 hours. The mixture was diluted with dichloromethane and was washed with 3N citric acid solution. The organic phase was separated, washed with brine, dried and evaporated. The residue was purified by mass-directed automated HPLC to give N-[(2-chloro-3,4-difluorophenyl)methyl]-3-methyl-1-(3-methyl-2-pyridinyl)-2-oxo-4-imidazolidinecarboxamide (145 mg, 46%). LC/MS [M+H]+=395, retention time=2.36 minutes.

reactant | 3-methyl-1-(3-methyl-2-pyridinyl)-2-oxo-4-imidazolidinecarboxylic acid TFA salt | 0.8 mmol, 279 mg | OC(=O)C(F)(F)F.CN1C(N(CC1C(=O)O)C1=NC=CC=C1C)=O
reactant | 1-hydroxybenzotriazole hydrate | 0.96 mmol, 147 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.96 mmol, 184 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-ethyl morpholine | 4.8 mmol, 0.613 ml | C(C)N1CCOCC1 | C6H13NO
reactant | [(2-Chloro-3,4-difluorophenyl)methyl]amine hydrochloride | 0.8 mmol, 171 mg | Cl.ClC1=C(C=CC(=C1F)F)CN
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[(2-chloro-3,4-difluorophenyl)methyl]-3-methyl-1-(3-methyl-2-pyridinyl)-2-oxo-4-imidazolidinecarboxamide | 145 mg, 46% | ClC1=C(C=CC(=C1F)F)CNC(=O)C1N(C(N(C1)C1=NC=CC=C1C)=O)C | C18H17ClF2N4O2
